US09079919B2
(2RS,4R)-6-(5-Chloropyridin-3-yl)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine
The cross coupling reaction of (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine (intermediate C3.4) with 5-chloropyridin-3-ylboronic acid yielded the title compound (7% yield) as a white solid.

reactant | (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C19H17BrF2N2O2
reactant | 5-chloropyridin-3-ylboronic acid | ClC=1C=C(C=NC1)B(O)O | C5H5BClNO2
product | (2RS,4R)-6-(5-Chloropyridin-3-yl)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | 7% yield | ClC=1C=C(C=NC1)C=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C24H20ClF2N3O2
